US07504410B2
3-(3-Aminophenyl)-2,4-imidazolidinedione
A suspension of [[[(3-nitrophenyl)amino]carbonyl]aminoacetic acid methyl ester (6.9 g, 27 mmol) in 6N aqueous hydrochloride solution (40 mL) and acetone (20 mL) was stirred at reflux overnight. The resulting solution was cooled and concentrated. The resulting yellowish suspension was filtered and the filter cake was washed with water (50 mL), aqueous sodium bicarbonate solution (50 mL), and air-dried to afford the title compound (4.4 g).

reactant | [[(3-nitrophenyl)amino]carbonyl]aminoacetic acid methyl ester | 27 mmol, 6.9 g | COC(CNC(=O)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C10H11N3O5
solvent | hydrochloride | 6N, 40 mL | Cl | ClH
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3-(3-Aminophenyl)-2,4-imidazolidinedione | 4.4 g | NC=1C=C(C=CC1)N1C(NCC1=O)=O | C9H9N3O2
